US07132436B2
2,4,6-Trichloro-N-[4-(2-chlorophenyl)-1,3-thiazol-2-yl]benzenesulfonamide
The title compound was prepared from 4-(2-chlorophenyl)-1,3-thiazol-2-amine and 2,4,6-trichlorobenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (38.7 mg) with purity >90%. MS (pos) m/z 453.0, 455.0, 457.0.

reactant | 4-(2-chlorophenyl)-1,3-thiazol-2-amine | ClC1=C(C=CC=C1)C=1N=C(SC1)N | C9H7ClN2S
reactant | 2,4,6-trichlorobenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
product | 2,4,6-Trichloro-N-[4-(2-chlorophenyl)-1,3-thiazol-2-yl]benzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)NC=1SC=C(N1)C1=C(C=CC=C1)Cl | C15H8Cl4N2O2S2
